***********************************************************************************
**** SPICE MODELING by JIM THOMPSON, http://www.analog-innovations.com/ © 2014 ****
***********************************************************************************
*               IN+
*               | IN-
*               | | GND
*               | | | OUT
*               | | | | VPLUS                
*               | | | | |
.SUBCKT TDA2003 1 2 3 4 5 
R_R6         1 N_1  150K 
RCON_TAG2         1 0 1G
V_VOS2          N_2  2  0.65V
R_R8         5 N_3  20K 
V_VOS1          N_1  3  1.3V
F_F1         2 3 VF_F1 0.5
        VF_F1 N_3 3 1.8V
**         Text Force ** 
.MODEL         D D
D_D1         N_4 N_5 D 
RCON_TAG3         N_6 0 1G
G_G1         N_7 N_6 VALUE { 5A*TANH(450*V(N_8, N_6)) }
R_R7         2 4  20K 
F_F3         N_4 5 VF_F3 1
        VF_F3 5 N_7 0
D_D2         5 N_4 D 
R_RNOF1         5 4  1G 
RFUD1      N_9  N_8  1
RFUD2      N_8 0 1G
RCON_TAG4         N_9 0 1G
R_RNOF2         4 3  1G 
C_COUT         4 3  5pF 
F_F2         5 3 VF_F2 1
        VF_F2 N_5 5 0
X_U1         1 N_2 N_9 5 3 OpAmpConfigRails PARAMS: GDC=100K GBW=10 SLEW=1
+  ROUT=100 PM=45 VMP=0.65 VMN=0.65 W=10m
R_ROUT         N_6 4  120m 
.ENDS    TDA2003
****
.SUBCKT OpAmpConfigRails INP INN OUT VP VN PARAMS: GDC=100K GBW=10 SLEW=1 ROUT=100 PM=45 VMP=0.5 VMN=0.5 W=10m
.PARAM  PI=3.141593 PMR={PM/180*PI} GBR={GBW*1E6*2*PI} DELT={(90-PM)/90}
.PARAM  OMEGAZ={GBR/DELT} PROCPM={(1-TAN(PMR/2))/(1+TAN(PMR/2))} L={(PROCPM-DELT)/GBR/GBR/(PROCPM-(1/DELT))}
.PARAM  R={(1-OMEGAZ*OMEGAZ*L)/OMEGAZ}
RRR VP VN 100Meg
G1 0 N2 N1 0 1
G2 N2 0 N2 N3 1
R1 N3 OUT {ROUT}
R2 N2 0 {GDC}
R3 N5 N4 {R/(sqrt(L))} ;{R}
XLIM N2 N3 VP VN SwingLimiter PARAMS: VMP={VMP} VMN={VMN} W={W}
E2 N1 0 VALUE {LIMIT(V(N4),{-(SLEW)/(2*PI*GBW)},{SLEW/(2*PI*GBW)})}
E3 N5 0 INP INN 1
RE3 N5 0 100K
E4 0 N6 INP INN 1 
RE4 N6 0 100K
C1 0 N2 {1/(2*PI*GBW*1E6)}
C2 N4 N7 {sqrt(L)} ;1
L1 N7 N6 {sqrt(L)} ;{L}
.ENDS OpAmpConfigRails
***********************************************************************************
.SUBCKT MOST_POS A B OUT COM PARAMS: W=0.1
E OUT COM VALUE {(TANH(V(A,B)/(0.679*W))*V(A,B)+V(A)+V(B))/2}
.ENDS MOST_POS
***********************************************************************************
.SUBCKT MOST_NEG A B OUT COM PARAMS: W=0.1
E OUT COM VALUE {(TANH(V(B,A)/(0.679*W))*V(A,B)+V(A)+V(B))/2}
.ENDS MOST_NEG
***********************************************************************************
.SUBCKT SwingLimiter IN OUT VP VN PARAMS: VMP=0.5 VMN=0.5 W=10m
X_U1         N_1 N_2 OUT 0 MOST_NEG PARAMS: W={W}
V_VOS2          N_3  VN  {VMN}
V_VOS1          VP  N_2  {VMP}
X_U2         IN N_3 N_1 0 MOST_POS PARAMS: W={W}
.ENDS   SwingLimiter
***********************************************************************************
